US04508727
1.2 g of tert.-butyl (4S)-1-methyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylate and 20 ml of a 13% hydrogen chloride-dioxane solution are treated in the same manner as described in Example 10-(3), whereby 0.9 g of (4S)-1-methyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid is obtained as colorless viscous oil. This oil (0.9 g) and 50 mg of palladium black are treated in the same manner as described in Example 10-(5), whereby 0.7 g of (4S)-1-methyl-3-{(2S)-2-[N-((1S)-1-carboxy-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid is obtained as colorless crystals. Yield: 80.9% The physico-chemical properties of this product are identical with those of the sample obtained in Example 4-(2).

reactant | tert.-butyl (4S)-1-methyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylate | 1.2 g | CN1C(N([C@@H](C1)C(=O)OC(C)(C)C)C([C@H](C)N[C@@H](CCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)=O | C29H37N3O6
reactant | hydrogen chloride dioxane | Cl.O1CCOCC1
product | (4S)-1-methyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-3-phenylpropyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid | 0.9 g | CN1C(N([C@@H](C1)C(=O)O)C([C@H](C)N[C@@H](CCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)=O | C25H29N3O6
